US06232475B1
Preparation of the Intermediate N-vinylphthalimide (not according to the invention)
Over a period of 2 hours, 672 g of 1,8-diazabicyclo-[5.4.0]-undec-7-ene were added dropwise to a solution of 1016 g of N-(2-bromoethyl)phthalimide in 2.81 of N,N-dimethylacetamide. During the addition, the temperature increased to 60° C. After the addition had ended, stirring was continued for 12 hours. The batch was poured into 9 l of water and filtered, and the filtration residue was dried at 50° C. This gave 621 g of product (=90% of theory) of melting point 79-80° C.

reactant | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 672 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-(2-bromoethyl)phthalimide | 1016 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | 9 l | O | H2O
product | N-vinylphthalimide | C(=C)N1C(C=2C(C1=O)=CC=CC2)=O | C10H7NO2
